US04303660
1-Nitro-5-(p-chlorophenyl)-5,6-dihydropyrazolo[1,5-c]quinazoline is treated with acetic anhydride as described in Example 27 to give 1-nitro-5-(p-chlorophenyl)-6-acetyl-5,6-dihydropyrazolo[1,5-c]quinazoline with a yield of 95%. M.p.: 183°-184° C.

reactant | 1-Nitro-5-(p-chlorophenyl)-5,6-dihydropyrazolo[1,5-c]quinazoline | [N+](=O)([O-])C=1C=NN2C(NC=3C=CC=CC3C21)C2=CC=C(C=C2)Cl | C16H11ClN4O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-nitro-5-(p-chlorophenyl)-6-acetyl-5,6-dihydropyrazolo[1,5-c]quinazoline | yield of 95% | [N+](=O)([O-])C=1C=NN2C(N(C=3C=CC=CC3C21)C(C)=O)C2=CC=C(C=C2)Cl | C18H13ClN4O3
